Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
CC(C)(C)OC(=O)[NH:1][CH:2]1[CH2:3][CH2:4][N:5]([CH:6]2[CH2:7][CH2:8][CH2:9]2)[CH2:10][CH2:11]1>>[NH2:1][CH:2]1[CH2:3][CH2:4][N:5]([CH:6]2[CH2:7][CH2:8][CH2:9]2)[CH2:10][CH2:11]1,[CH3:202][C:203]([CH3:204])([CH3:205])[O:206][C:101](=[O:201])[NH:1][CH:2]1[CH2:3][CH2:4][N:5]([CH:6]2[CH2:7][CH2:8][CH2:9]2)[CH2:10][CH2:11]1.[H+:301]>>[NH2:1][CH:2]1[CH2:3][CH2:4][N:5]([CH:6]2[CH2:7][CH2:8][CH2:9]2)[CH2:10][CH2:11]1,Boc_deprotection,"[(201, 301), ([203, 206], [206, 101]), ([101, 201], 201), (1, 201.1), ([201.1, 201], 201), (201, [201, 101]), ([101, 1], 1), ([202.1, 202], [202, 203])]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1]([c:2]1[cH:3][c:4]([CH:5]([CH3:6])[CH3:7])[n:8][n:9]1[CH3:10])=[O:11].[NH2:12][c:13]1[cH:14][c:15]([O:16][c:17]2[cH:18][cH:19][c:20]3[n:21][c:22]([NH:23][C:24](=[O:25])[CH:26]4[CH2:27][CH2:28]4)[cH:29][n:30]3[n:31]2)[cH:32][cH:33][c:34]1[F:35]>>[C:1]([c:2]1[cH:3][c:4]([CH:5]([CH3:6])[CH3:7])[n:8][n:9]1[CH3:10])(=[O:11])[NH:12][c:13]1[cH:14][c:15]([O:16][c:17]2[cH:18][cH:19][c:20]3[n:21][c:22]([NH:23][C:24](=[O:25])[CH:26]4[CH2:27][CH2:28]4)[cH:29][n:30]3[n:31]2)[cH:32][cH:33][c:34]1[F:35],[NH2:12][c:13]1[cH:14][c:15]([O:16][c:17]2[cH:18][cH:19][c:20]3[n:21][c:22]([NH:23][C:24](=[O:25])[CH:26]4[CH2:27][CH2:28]4)[cH:29][n:30]3[n:31]2)[cH:32][cH:33][c:34]1[F:35].[OH:101][C:1]([c:2]1[cH:3][c:4]([CH:5]([CH3:6])[CH3:7])[n:8][n:9]1[CH3:10])=[O:11].[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1]([c:2]1[cH:3][c:4]([CH:5]([CH3:6])[CH3:7])[n:8][n:9]1[CH3:10])(=[O:11])[NH:12][c:13]1[cH:14][c:15]([O:16][c:17]2[cH:18][cH:19][c:20]3[n:21][c:22]([NH:23][C:24](=[O:25])[CH:26]4[CH2:27][CH2:28]4)[cH:29][n:30]3[n:31]2)[cH:32][cH:33][c:34]1[F:35],DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (12, 1), ([1, 11], 11), (303, 12.1), ([12.1, 12], 12), (11, [11, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Br[CH2:1][c:2]1[cH:3][cH:4][cH:5][cH:6][cH:7]1.[CH3:8][C:9]([CH3:10])([CH3:11])[O:12][C:13](=[O:14])[NH:15][C@@H:16]([c:17]1[n:18][c:19](-[c:20]2[cH:21][c:22]([F:23])[cH:24][cH:25][c:26]2[F:27])[cH:28][nH:29]1)[CH:30]1[CH2:31][CH2:32][O:33][CH2:34][CH2:35]1>>[CH2:1]([c:2]1[cH:3][cH:4][cH:5][cH:6][cH:7]1)[n:29]1[c:17]([C@H:16]([NH:15][C:13]([O:12][C:9]([CH3:8])([CH3:10])[CH3:11])=[O:14])[CH:30]2[CH2:31][CH2:32][O:33][CH2:34][CH2:35]2)[n:18][c:19](-[c:20]2[cH:21][c:22]([F:23])[cH:24][cH:25][c:26]2[F:27])[cH:28]1,[CH3:8][C:9]([CH3:10])([CH3:11])[O:12][C:13](=[O:14])[NH:15][C@@H:16]([c:17]1[n:18][c:19](-[c:20]2[cH:21][c:22]([F:23])[cH:24][cH:25][c:26]2[F:27])[cH:28][nH:29]1)[CH:30]1[CH2:31][CH2:32][O:33][CH2:34][CH2:35]1.[Br:101][CH2:1][c:2]1[cH:3][cH:4][cH:5][cH:6][cH:7]1>>[CH2:1]([c:2]1[cH:3][cH:4][cH:5][cH:6][cH:7]1)[n:29]1[c:17]([C@H:16]([NH:15][C:13]([O:12][C:9]([CH3:8])([CH3:10])[CH3:11])=[O:14])[CH:30]2[CH2:31][CH2:32][O:33][CH2:34][CH2:35]2)[n:18][c:19](-[c:20]2[cH:21][c:22]([F:23])[cH:24][cH:25][c:26]2[F:27])[cH:28]1,SN2,"[(29, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
[CH3:1][c:2]1[cH:3][c:4]([CH3:5])[c:6](-[c:7]2[n:8][c:9]3[c:10]4[c:11]([n:12][n:13]3[c:14]([NH2:15])[c:16]2[C:17]#[N:18])[CH2:19][S:20][CH2:21]4)[c:22]([CH3:23])[cH:24]1>>[CH3:1][c:2]1[cH:3][c:4]([CH3:5])[c:6](-[c:7]2[n:8][c:9]3[c:10]4[c:11]([n:12][n:13]3[c:14]([NH2:15])[c:16]2[CH2:17][NH2:18])[CH2:19][S:20][CH2:21]4)[c:22]([CH3:23])[cH:24]1,[CH3:1][c:2]1[cH:3][c:4]([CH3:5])[c:6](-[c:7]2[n:8][c:9]3[c:10]4[c:11]([n:12][n:13]3[c:14]([NH2:15])[c:16]2[C:17]#[N:18])[CH2:19][S:20][CH2:21]4)[c:22]([CH3:23])[cH:24]1.[Li+:301].[AlH4-:302].[OH2:303].[OH2:304]>>[CH3:1][c:2]1[cH:3][c:4]([CH3:5])[c:6](-[c:7]2[n:8][c:9]3[c:10]4[c:11]([n:12][n:13]3[c:14]([NH2:15])[c:16]2[CH2:17][NH2:18])[CH2:19][S:20][CH2:21]4)[c:22]([CH3:23])[cH:24]1,nitrile_reduction,"[([302, 302.1], 17), ([17, 18], 301), ([302, 302.1], 17), ([17, 18], 302), ([301, 18], 303.1), ([303.1, 303], 303), ([302, 18], 304.1), ([304.1, 304], 304)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
